US07214802B2
To a solution of 5.40 g (25.3 mmol) of 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone in HOAc (30 mL) was added HBr in HOAc (30 mL). Bromine (1.42 ml, 27.7 mmol) was added dropwise and the mixture was stirred at rt for 45 minutes and was poured into ice water (500 mL). The liquid was decanted and remaining residue was washed with water, then dissolved in CH2Cl2 (500 mL) and washed with sat NaHCO3, dried over MgSO4, and concentrated to give 7.20 g of 2-bromo-1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone.

reactant | 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone | 25.3 mmol, 5.40 g | C(C)C1=C(C=NN1C1=CC=CC=C1)C(C)=O | C13H14N2O
reactant | HBr | Br | BrH
reactant | Bromine | 27.7 mmol, 1.42 ml | BrBr | Br2
solvent | HOAc | 30 mL | CC(=O)O | C2H4O2
solvent | HOAc | 30 mL | CC(=O)O | C2H4O2
product | 2-bromo-1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone | 7.20 g | BrCC(=O)C=1C=NN(C1CC)C1=CC=CC=C1 | C13H13BrN2O
